US08865736B2
2,6-Difluoro-3-[(6-methoxy-1,3-benzothiazol-2-yl)methoxy]benzenecarboxamide
Synthesised from 2,6-difluoro-3-hydroxybenzenecarboxamide and 2-(chloromethyl)-6-methoxy-1,3-benzothiazole according to Method B, scheme 2. Yield 19%, mp 190-192° C., HPLC-MS (method 1): m/z 351 [M+H]+, Rt=3.50 min.

reactant | 2,6-difluoro-3-hydroxybenzenecarboxamide | FC1=C(C(=CC=C1O)F)C(=O)N | C7H5F2NO2
reactant | 2-(chloromethyl)-6-methoxy-1,3-benzothiazole | ClCC=1SC2=C(N1)C=CC(=C2)OC | C9H8ClNOS
product | 2,6-Difluoro-3-[(6-methoxy-1,3-benzothiazol-2-yl)methoxy]benzenecarboxamide | Yield 19% | FC1=C(C(=CC=C1OCC=1SC2=C(N1)C=CC(=C2)OC)F)C(=O)N | C16H12F2N2O3S
